US04057647
A solution of 2.76 g. of 3 hydroxy-3-(2',4'-difluoro-4-biphenylyl)-butanol, obtained by reacting 4-acetyl-2',4'-difluorobiphenyl with 2,2-diethoxyethyl magnesium bromide and subsequently hydrolyzing the reaction product, in 12 ml. of ethanol is added dropwise to a solution of 0.6 g. of NaBH4 in 15 ml. of ethanol. The mixture is stirred for 2 hours at 20° and worked up in the customary manner to give 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol, m.p. 82°-84°.

reactant | 4-acetyl-2',4'-difluorobiphenyl | C(C)(=O)C1=CC=C(C=C1)C1=C(C=C(C=C1)F)F | C14H10F2O
reactant | 2,2-diethoxyethyl magnesium bromide | C(C)OC(C[Mg]Br)OCC
reactant | NaBH4 | [BH4-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 3-(2',4'-difluoro-4-biphenylyl)butane-1,3-diol | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)C(CCO)(C)O | C16H16F2O2
